US09315458B2
C) rac-6-((6-chloropyridin-3-yl)methyl)-2-(trans-2-hydroxycyclohexyl)isoindolin-1-one
To a solution of rac-6-bromo-2-(trans-2-hydroxycyclohexyl)isoindolin-1-one (0.23 g) in THF (3.0 mL) were added ((6-chloropyridin-3-yl)methyl)zinc(II) chloride (3.66 mL) and bis(tri-tert-butylphosphine)palladium(0) (0.07 g) under ice-cooling, and the mixture was stirred at room temperature for 3 hr under argon atmosphere. To the reaction mixture were added 5% aqueous sodium bicarbonate and ethyl acetate, the mixture was stirred, and the insoluble substance was removed by filtration. The filtrate was extracted with ethyl acetate, the organic layer was washed with saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (0.15 g).

reactant | rac-6-bromo-2-(trans-2-hydroxycyclohexyl)isoindolin-1-one | 0.23 g | BrC1=CC=C2CN(C(C2=C1)=O)[C@H]1[C@@H](CCCC1)O | C14H16BrNO2
reactant | ((6-chloropyridin-3-yl)methyl)zinc(II) chloride | 3.66 mL | [Cl-].ClC1=CC=C(C=N1)C[Zn+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
catalyst | bis(tri-tert-butylphosphine)palladium(0) | 0.07 g | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | rac-6-((6-chloropyridin-3-yl)methyl)-2-(trans-2-hydroxycyclohexyl)isoindolin-1-one | 0.15 g | ClC1=CC=C(C=N1)CC1=CC=C2CN(C(C2=C1)=O)[C@H]1[C@@H](CCCC1)O | C20H21ClN2O2
